US09169254B2
TEA (1.143 mmol, 3 eq) and piperidine-1-carbonyl chloride (0.457 mmol, 1.2 eq) were sequentially added to a mixed solution of 8-(3-chloro-benzenesulfonyl)-2-piperidin-3-yl-1,3,8-triaza-spiro[4.5]dec-1-en-4-one trifluoroacetate (200 mg, 0.38 mmol) in dichloromethane (3 ml). The resulting mixture was stirred at room temperature overnight and then concentrated under reduced pressure. The resulting residue was purified by HPLC to give 8-(3-chloro-benzenesulfonyl)-2-[1-(piperidine-1-carbonyl)-piperidin-3-yl]-1,3,8-triaza-spiro[4.5]dec-1-en-4-one (30 mg, yield 15%).

reactant | piperidine-1-carbonyl chloride | 0.457 mmol, 1.2 eq | N1(CCCCC1)C(=O)Cl | C6H10ClNO
reactant | 8-(3-chloro-benzenesulfonyl)-2-piperidin-3-yl-1,3,8-triaza-spiro[4.5]dec-1-en-4-one trifluoroacetate | 0.38 mmol, 200 mg | FC(C(=O)O)(F)F.ClC=1C=C(C=CC1)S(=O)(=O)N1CCC2(C(NC(=N2)C2CNCCC2)=O)CC1
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
product | 8-(3-chloro-benzenesulfonyl)-2-[1-(piperidine-1-carbonyl)-piperidin-3-yl]-1,3,8-triaza-spiro[4.5]dec-1-en-4-one | 30 mg, yield 15% | ClC=1C=C(C=CC1)S(=O)(=O)N1CCC2(C(NC(=N2)C2CN(CCC2)C(=O)N2CCCCC2)=O)CC1 | C24H32ClN5O4S
